US06787655B2
3-Isopropylcyclopentenone:
Isopropylmagnesium chloride (5 mL, 10 mmol, 2 M in diethyl ether) was placed in a dry flask and cooled to 0° C. 3-Ethoxycyclopentenone (0.88 g, 7 mmol) was added dropwise to the solution of the Grignard reagent, and the resulting mixture was stirred at room temperature for 23 h. At this point, 1 M HCl (15 mL) was added gradually, the aqueous phase was separated and extracted 3×with diethyl ether. The combined organic phases were dried over MgSO4, filtered, and concentrated in vacuo. The product was purified first by Kugelrohr distillation (0.1 torr, 120° C.), then by flash chromatography (1:1 pentane:ether) to afford the product as a colorless liquid (0.171 g, 20%). Spectroscopic data were consistent with previously reported data for this compound.7

reactant | Isopropylmagnesium chloride | 10 mmol, 2 M, 5 mL | C(C)(C)[Mg]Cl
reactant | 3-Ethoxycyclopentenone | 7 mmol, 0.88 g | C(C)OC1=CC(CC1)=O | C7H10O2
reactant | HCl | 1 M, 15 mL | Cl | ClH
product | 3-Isopropylcyclopentenone | 0.171 g, 20% | C(C)(C)C1=CC(CC1)=O | C8H12O
